US05574042
To a solution of ethyl 4-aminocinnamate (2.00 g) and methoxyacetic acid (1.04 ml) in N,N-dimethylformamide (20 ml) were added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (2.61 and 1-hydroxybenzotriazole (2.12 g) at ambient temperature, and the mixture was stirred for 1 hour at the same temperature. The reaction mixture was poured into water, and extracted with dichloromethane. The organic layer was washed with aqueous sodium bicarbonate solution and water, dried over magnesium sulfate, and evaporated in vacuo. The residue was crystallized from diisopropyl ether to give ethyl 4-(methoxyacetamido)cinnamate (2.34 g) as a pale yellow powder.

reactant | ethyl 4-aminocinnamate | 2.00 g | NC1=CC=C(C=CC(=O)OCC)C=C1 | C11H13NO2
reactant | methoxyacetic acid | 1.04 ml | COCC(=O)O | C3H6O3
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 2.12 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | ethyl 4-(methoxyacetamido)cinnamate | 2.34 g | COCC(=O)NC1=CC=C(C=CC(=O)OCC)C=C1 | C14H17NO4
